US07645771B2
c) Preparation of 2-chloro-4-{[(trifluoromethyl)sulfonyl]amino}benzoic acid
A solution of methyl 4-{bis[(trifluoromethyl)sulfonyl]amino}-2-chlorobenzoate (5.9 g, 13.1 mmol), sodium hydroxide (3.12 g, 78.0 mmol), methanol (125 ml) and water (125 ml) was stirred for 2 hours. The solution from concentration to 75 ml by spin evaporation in vacuo and dilution with 100 ml water was extracted with ethyl acetate. The aqueous layer was acidified with 12 N hydrochloric acid and again extracted with ethyl acetate. The organic layer was washed with water and concentrated by spin evaporation in vacuo, with the addition of dichloromethane (3 times) to give a residue that was dissolved in 1 N aqueous hydrochloric acid. The aqueous solution was extracted with ethyl acetate (3 times) and the organic layers were combined, washed with water, and concentrated by spin evaporation in vacuo 2-chloro-4-{[(trifluoromethyl)sulfonyl]amino}benzoic acid as a solid (3.6 g, 61%). ES-LCMS m/z 304 (M+H).

reactant | methyl 4-{bis[(trifluoromethyl)sulfonyl]amino}-2-chlorobenzoate | 13.1 mmol, 5.9 g | FC(S(=O)(=O)N(C1=CC(=C(C(=O)OC)C=C1)Cl)S(=O)(=O)C(F)(F)F)(F)F | C10H6ClF6NO6S2
reactant | sodium hydroxide | 78.0 mmol, 3.12 g | [OH-].[Na+]
reactant | methanol | 125 ml | CO | CH4O
reactant | water | 125 ml | O | H2O
solvent | hydrochloric acid | 1 N | Cl | ClH
product | 2-chloro-4-{[(trifluoromethyl)sulfonyl]amino}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)NS(=O)(=O)C(F)(F)F | C8H5ClF3NO4S
